US05616586
9-Bromo-5-ethoxalylaminomethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
To a solution of 9-bromo-5-aminomethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione hydrochloride (300 mg, 0.866 mmol)in a 1:1 mixture of dichloromethane and DMF (10 mL)in the presence of triethylamine (0.3 mL, 2.16 mmol) was added ethyl chlorooxalate (0.102 mL, 0.909 mmol) at 0° C. The mixture was stirred for 15 min at 0° C. and for 10 h at room temperature and then water was added. The mixture was extracted with ethyl acetate. The aqueous layer was acidified with 1N hydrochloric acid to pH 1 and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, and concentrated. The residual solid was recrystallized from ethanol-ether to give 75 mg of the title compound (21%): mp 214.5~220.5° C.; 1H NMR (270 MHz, DMSO-d6) δ12.01 (s, 1H), 9.11 and 9.04 (two triplet, 1H, J=6 Hz), 7.19 (s, 1H), 7.14 (s, 1H), 4.98~5.07 (m, 1H), 4.21 (q, 2H, J=7.5 Hz), 3.17~3.57 (m, 2H), 3.01 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.79, (dm, 1H, J=17.1 Hz), 2.10 (dm, 1H, 13.5 Hz), 1.70~1.85 (m, 1H), 1.26 (t, 3H, J=7.5 Hz).

reactant | 9-bromo-5-aminomethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione hydrochloride | 0.866 mmol, 300 mg | Cl.BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CN
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | triethylamine | 2.16 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorooxalate | 0.909 mmol, 0.102 mL | C(C(=O)OCC)(=O)Cl | C4H5ClO3
solvent | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 9-Bromo-5-ethoxalylaminomethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 75 mg, 21% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CNC(=O)C(=O)OCC | C16H16BrN3O5
